Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
syncope
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ year old man with advanced dementia who lost consciousness ( 
described as verbral unresponsiveness) for a few seconds while 
at his assissted living facility (dementia unit). He has severe 
dementia and can not provide any information. The son informed 
me that he had no similar episodes in the past. He had multiple 
falls in the past with rib fractures. He uses a walker at 
baseline and has urinary incontinence. The patient recovered 
immediately after his brief period of unresponsiveness. He 
denied any symptoms after he recovered. He had no headache, 
palpitations, chest pain, focal weakness, abdominal pain, 
diarrhea, or urinary symptoms. IN ER, he had stable vital signs. 
His head CT was unremarkable. He was admitted for further work 
up. ROS: all remaining systems were reviewed and symptoms were 
negative. 
 
Past Medical History:
Dementia  
Hypertension  
Hypothyroidism  
Hyponatremia  
Urinary incontinence  
History of ___  
s/p pacemaker placement (VDD mode)  

 
Social History:
___
Family History:
Mother died of MI at a "somewhat young age."  Patient is 
youngest of ___. He recalls that one brother died of an MI. No FH 
of DM or sudden death. Does not know health status of his 
children.  

 
Physical Exam:
Vitals - T: 96.3 BP: 158/70 HR: 61 RR: 18 02 sat: 97%RA  
GENERAL: Elderly gentleman resting comfortably in bed  
HEENT: Normocephalic/Atraumatic, no tenderness to head/neck 
palpation, no JVD  
CARDIAC: S1 & S2 regular with III/VI systolic murmur  
LUNG: Bilateral Clear to auscultation. Minimal tenderness over 
right anterior ribs. No back pain or tenderness  
ABDOMEN: Nontender nondistended, bowel sounds present  
EXT: No edema 
NEURO: Oriented to self only, CNII-XII intact to confrontation. 
___ strength and sensation intact in bilateral upper and lower 
extremies. No pronator drift. Finger to nose testing intact 
bilaterally.  

 
Pertinent Results:
___ 01:00PM URINE  COLOR-Amber APPEAR-Clear SP ___
___ 01:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-15 BILIRUBIN-NEG UROBILNGN-1 PH-5.0 LEUK-NEG
___ 01:00PM URINE  RBC-0 WBC-0 BACTERIA-FEW YEAST-NONE 
EPI-0
___ 01:00PM URINE  ___ 12:08PM   GLUCOSE-137* UREA N-12 CREAT-0.9 SODIUM-132* 
POTASSIUM-4.2 CHLORIDE-94* TOTAL CO2-27 ANION GAP-15
___ 12:08PM   ALT(SGPT)-22 AST(SGOT)-26 ALK PHOS-74 TOT 
BILI-1.6*
___ 12:08PM   ALBUMIN-4.5 CALCIUM-9.5 PHOSPHATE-3.8 
MAGNESIUM-2.0
___ 12:08PM   WBC-8.3 RBC-4.13* HGB-12.9* HCT-36.7* MCV-89 
MCH-31.1 MCHC-35.1* RDW-14.___ year old man with advanced dementia who presented with 
syncope. He has a pacemaker but no arrhythmia was detected on 
EKG or 24 hour monitoring. Head CT did not reveal a bleed or new 
ischemic stroke. It did show remarkable brain atrophy and 
encephalomalacia. His physical examination did not suggest an 
etiology for syncope ( other than aortic stenosis murmur, mild 
on Echocardiogram in ___ or focal neurological defects. He 
had unremarkable U/A, and a normal basic laboratory testing. His 
chest X ray did not suggest pneumonia. He was ruled out for ACS 
and myocardial infarction. The patient is DNR/DNI and his sons 
requested limited work up because of his advanced dementia. In 
the setting of limited history, any work up will be of low yield 
any way. He had mild hyponatremia that does not explain his 
symptoms. His anemia is normocytic and chronic in nature as 
well. He also has chronic mild elevation of his bilirubin.
I discussed the need for a full nursing home placement in the 
near future, as he has progressive difficulty in ambulation, 
recurrent falls, and increased dependency. Both sons agree with 
the plan. He may need to be considered for hospice care or no 
further hospitalizations in the near future.   
 
Medications on Admission:
1. Acetaminophen 500 mg Tablet Sig: One (1) Tablet PO Q6H (every 

6 hours) as needed for pain.  
2. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  


3. Donepezil 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime). 

 
4. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
5. Levothyroxine 25 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Multivitamin Tablet Sig: One (1) Tablet PO DAILY (Daily).  
7. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1)  


Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
8. Calcium 600 with Vitamin D3 600 mg(1,500mg) -400 unit Capsule 

Sig: One (1) Capsule PO once a day.  
Disp:*30 Capsule(s)* Refills:*2*  
9. Senna 8.6 mg Tablet Sig: One (1) Tablet PO DAILY (Daily) as 
needed for constipation.  
10. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY  
11. Cyanocobalamin 100 mcg Tablet Sig: One (1) Tablet PO DAILY  
12. Olanzapine 2.5 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
13. Fosinopril 20 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
14. Fosamax 35 mg Tablet Sig: One (1) Tablet PO once a week.  
Disp:*4 Tablet(s)* Refills:*2*  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Syncope. 

 
Discharge Condition:
Stable. 

 
Discharge Instructions:
You had a short period of unresponsiveness. There was no 
evidence of stroke, infection, or acute cardiac event such as 
arrhythmia or heart attack. You will require higher level of 
care soon because of difficult mobility (a full nursing home). 
This was discussed with your 2 sons. Your sons and myself 
decided against further diagnostic tests such as MRI or Echo. 
You need pacer interrogation as scheduled with your 
cardiologist. 
 
Followup Instructions:
___